US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (250 mg, 0.59 mmol) with 4-aminomethyl-N-(2,2,2-trifluoroethyl)-benzamide (273 mg, 1.17 mmol). Purify by chromatography on silica gel eluting with hexane/EtOAc (20:1, 10:1, 7:1 and 5:1) to give 7-chloro-3-(2,2,2-trifluoroacetyl)-6-[4-(2,2,2-trifluoroethyl-aminocarbonyl)-benzylamino]-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.59 mmol, 250 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-aminomethyl-N-(2,2,2-trifluoroethyl)-benzamide | 1.17 mmol, 273 mg | NCC1=CC=C(C(=O)NCC(F)(F)F)C=C1 | C10H11F3N2O
product | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-[4-(2,2,2-trifluoroethyl-aminocarbonyl)-benzylamino]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)C(=O)NCC(F)(F)F | C22H20ClF6N3O2
